US06329370B1
5-Ethynyl-6-methoxy-2H-phthalazin-1-one
A suspension of 6-methoxy-5-trimethylsilanylethynyl-2H-phthalazin-1-one (2.87 g, 10.20 mmoles), prepared as described in example 139, in acetonitrile (50 ml) was added with 32% NaOH (15 ml) and stirred at room temperature for 1 hour. The mixture was neutralised with concentrated HCl and the precipitate filtered off. The aqueous phase was extracted with ethyl acetate, the organic phase was dried and taken up in acetone. The solid was filtered off and joined to the previous precipitate to give 1.99 g of the title compound (yield: 97.3%).

reactant | 6-methoxy-5-trimethylsilanylethynyl-2H-phthalazin-1-one | 10.20 mmoles, 2.87 g | COC=1C(=C2C=NNC(C2=CC1)=O)C#C[Si](C)(C)C | C14H16N2O2Si
reactant | NaOH | 15 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-Ethynyl-6-methoxy-2H-phthalazin-1-one | 1.99 g, yield: 97.3% | C(#C)C1=C2C=NNC(C2=CC=C1OC)=O | C11H8N2O2
